US05446042
2-[1-[2-Hydroxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-4H,6H-1,3,4-thiadiazin-5-one (Compound 1)
1-[(4-Methoxyphenyl)carbonylmethyl]-4-(4H,6H-1,3,4-thiadiazin-5-one-2-yl)pyridinium bromide (3.84 g, 9.09 mmol) was dissolved in methanol-water (1:1 v/v %) (50 ml), gradually added with sodium borohydride (3.43 g, 90.9 mmol) under ice cooling and then stirred at room temperature overnight. The solvent was removed under reduced pressure. The residue was added withdichloromethane, then washed with water and dried over anhydrous magnesium sulfate. The solvent was removed to obtain the titled compound (2.44 g) aswhite crystals.

reactant | 1-[(4-Methoxyphenyl)carbonylmethyl]-4-(4H,6H-1,3,4-thiadiazin-5-one-2-yl)pyridinium bromide | 9.09 mmol, 3.84 g | [Br-].COC1=CC=C(C=C1)C(=O)C[N+]1=CC=C(C=C1)C=1SCC(NN1)=O
reactant | sodium borohydride | 90.9 mmol, 3.43 g | [BH4-].[Na+]
solvent | methanol water | 50 ml | CO.O
product | 2-[1-[2-Hydroxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-4H,6H-1,3,4-thiadiazin-5-one | 2.44 g | OC(CN1CC=C(CC1)C=1SCC(NN1)=O)C1=CC=C(C=C1)OC | C17H21N3O3S
